US09233983B2
Step-I: Methyl 4-(2-amino-4-hydroxy-7H-pyrrolo[2,3-d]pyrimidin-6-yl)benzoate (XI-8-I)
A solution of 2,6-diamino-4-hydroxypyrimidine (CAS: 56-06-4, 1 g, 7.93 mmol) and sodium acetate (0.85 g, 10.32 mmol) in water (180 mL) was stirred at 100° C. for 30 minutes. Methyl 4-(2-bromoacetyl)benzoate (2.24 g, 8.72 mmol) was suspended in MeOH (25 mL) and was added slowly to the above solution. The reaction mixture was then stirred at 100° C. for 16-20 h and then cooled to room temperature. The residue was filtered and dried. It was then stirred in CH2Cl2 (10 mL) and filtered to provide XI-8-I (1.07 g, 47.5%). LCMS: m/z 285 (M+1)+.

reactant | 2,6-diamino-4-hydroxypyrimidine | 7.93 mmol, 1 g | NC1=NC(=CC(=N1)O)N | C4H6N4O
reactant | sodium acetate | 10.32 mmol, 0.85 g | C(C)(=O)[O-].[Na+]
reactant | Methyl 4-(2-bromoacetyl)benzoate | 8.72 mmol, 2.24 g | BrCC(=O)C1=CC=C(C(=O)OC)C=C1 | C10H9BrO3
solvent | water | 180 mL | O | H2O
solvent | MeOH | 25 mL | CO | CH4O
product | Methyl 4-(2-amino-4-hydroxy-7H-pyrrolo[2,3-d]pyrimidin-6-yl)benzoate | NC=1N=C(C2=C(N1)NC(=C2)C2=CC=C(C(=O)OC)C=C2)O | C14H12N4O3
